US06787558B2
a) 4-Bromo-3-methoxy-phenylamine
A suspension of iron powder (40.8 g, 0.730 mol), ammonium chloride (64.7 g, 1.21 mol) and 2-bromoanisole (50 g, 0.215 mol) in water (1.5 L) and MeOH (1 L) was stirred overnight at 75° C. The solid was filtered off and the liquid was diluted with ethyl acetate, washed with brine, dried over sodium sulfate, filtered and the solvents were evaporated under vacuum. 43.1 g of the title compound were obtained. Brown solid, ISP-MS: m/e=203.1 ([M+H]+).

reactant | ammonium chloride | 1.21 mol, 64.7 g | [Cl-].[NH4+]
reactant | 2-bromoanisole | 0.215 mol, 50 g | BrC1=C(C=CC=C1)OC | C7H7BrO
solvent | water | 1.5 L | O | H2O
solvent | MeOH | 1 L | CO | CH4O
catalyst | iron | 0.730 mol, 40.8 g | [Fe] | Fe
product | 4-Bromo-3-methoxy-phenylamine | 43.1 g | BrC1=C(C=C(C=C1)N)OC | C7H8BrNO
